US07196104B2
Preparation AS: tert-Butyl (6-aminopyridin-2-ylmethyl)-(1-diethylaminomethyl-2-methyl-propyl)carbamate
To a stirred solution of N-{1-[(diethylamino)-methyl]-2-methylpropyl}(tert-butoxy)-N-[(6-bromo(2-pyridyl))methyl]carboxamide (5 mg, 0.012 mmol) in IpOH (5 ML) in a sealed tube, was added NH4OH (28–30% 6 mL) followed by excess Cu. The resulting solution was heated under pressure at 90° C. for 24 h. The mixture was brought to RT, diluted with H2O (10 mL) and extracted with CHCl3 (3×20 mL) The organic layers were combined, dried over MgSO4, filtered and concentrated by rotary evaporation to afford the title compound as a green oil. No purification was required. EI-MS m/z 365 (M+H).

reactant | N-{1-[(diethylamino)-methyl]-2-methylpropyl}(tert-butoxy)-N-[(6-bromo(2-pyridyl))methyl]carboxamide | 0.012 mmol, 5 mg | C(C)N(CC)CC(C(C)C)N(C(=O)OC(C)(C)C)CC1=NC(=CC=C1)Br | C20H34BrN3O2
reactant | NH4OH | 6 mL | [NH4+].[OH-]
solvent | H2O | 10 mL | O | H2O
product | tert-Butyl (6-aminopyridin-2-ylmethyl)-(1-diethylaminomethyl-2-methyl-propyl)carbamate | NC1=CC=CC(=N1)CN(C(OC(C)(C)C)=O)C(C(C)C)CN(CC)CC | C20H36N4O2
